US07332485B2
Dimethyl Cycloheptane-1,1-Dicarboxylate
A solution of methyl cycloheptanecarboxylic acid (8.0 g, 51.2 mmol) in THF (18 mL) was added dropwise to a solution of lithium diisopropylamine (8.3 g, 76.8 mmol) in THF (70 mL) at −78° C. After stirring for 1 h at the same temperature, a solution of methylchloroformate (7.26 g, 76.8 mmol) was added slowly and the mixture was allowed to warm to room temperature. After 18 h the reaction mixture was quenched with saturated aqueous NH4Cl solution (100 mL) and was extracted with EtOAc (100 mL×3). The combined organic layers were dried (MgSO4). After removal of the solvent under reduced pressure, purification by flash column chromatography using an eluting system of hexane/EtOAc (95:5) yielded the title compound as a clear, colorless liquid (7.8 g, 71%). MH+215.

reactant | methyl cycloheptanecarboxylic acid | 51.2 mmol, 8.0 g | CC1(CCCCCC1)C(=O)O | C9H16O2
reactant | lithium diisopropylamine | 76.8 mmol, 8.3 g | C(C)(C)NC(C)C.[Li]
reactant | methylchloroformate | 76.8 mmol, 7.26 g | COC(=O)Cl | C2H3ClO2
solvent | THF | 18 mL | C1CCOC1 | C4H8O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | Dimethyl Cycloheptane-1,1-Dicarboxylate | C1(CCCCCC1)(C(=O)OC)C(=O)OC | C11H18O4
